US08957074B2
Using General Buchwald method 1, 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (139 mg, 0.476 mmol, 1.0 eq) was combined with 3-(6-Amino-pyridin-3-yl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (145 mg, 0.476 mmol, 1.0 eq) to give 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (143 mg, 51% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42 (s, 9H) 1.57-1.70 (m, 2H) 1.74-1.92 (m, 4H) 1.98 (br. s., 4H) 2.36-2.48 (m, 2H) 2.78 (d, J=10.11 Hz, 2H) 3.05 (br. s., 6H) 3.48 (d, J=10.11 Hz, 2H) 4.24 (br. s., 2H) 4.73 (qd, J=8.76, 8.59 Hz, 1H) 6.59 (s, 1H) 7.37 (dd, J=9.09, 3.03 Hz, 1H) 7.94 (d, J=3.03 Hz, 1H) 8.13 (d, J=9.09 Hz, 1H) 8.75 (s, 1H) 9.24 (s, 1H); MS m/z 561.3 (M+H).

reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.476 mmol, 139 mg, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 3-(6-Amino-pyridin-3-yl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.476 mmol, 145 mg, 1.0 eq | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C=2C=NC(=CC2)N | C16H24N4O2
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 143 mg, 51% yield | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C30H40N8O3
